US04243819
To m-phenoxybenzyl α-bromoisovalerate (2 g, 0.0055 mole), 24°, is added 2,6-dimethylaniline (3.33 g, 0.0275 mole) followed by a catalytic amount of potassium iodide (20 mg). The reaction mixture is heated at about 120° for 48 hours, and then poured into ice-water (20 ml) and 2 N sulfuric acid (10 ml) and extracted with ether (3×30 ml). The combined ether extracts are washed with water (2×20 ml) until neutral and with brine (10 ml) followed by drying over calcium sulfate. The reaction product is concentrated under vacuum and isolated by preparative TLC to give m-phenoxybenzyl ester of N-(2,6-dimethylphenyl)valine. MS m/e 403.2 (M+, 7.5).

reactant | m-phenoxybenzyl α-bromoisovalerate | 0.0055 mole, 2 g | BrC(C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)C(C)C | C18H19BrO3
reactant | 2,6-dimethylaniline | 0.0275 mole, 3.33 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | potassium iodide | 20 mg | [I-].[K+]
solvent | sulfuric acid | 2 N, 10 ml | S(O)(O)(=O)=O | H2O4S
product | N-(2,6-dimethylphenyl)valine | CC1=C(C(=CC=C1)C)N[C@@H](C(C)C)C(=O)O | C13H19NO2
